### PR TITLE
Reasoning with foldr1_map

### PR DESCRIPTION
**Pull request by rmatthes**
The idea is to have a lemma as interface instead of going into the details of the encoding of lists.

This is shown to be useful for non-trivial situations in package SubstitutionSystems.

### CODE REVIEW

**Comment by rmatthes** [comment]
The problem in satellite largecatmodules is serious. If I cannot fix that, I would have to rewind the latest commit.

**Comment by rmatthes** [comment]
I have made a tiny pull request for largecatmodules that solves the issue on my machine.

File: UniMath/Combinatorics/Lists.v [hunk 1]
```diff
@@ -219,25 +219,52 @@ Proof.
   apply idpath.
 Qed.
 
-Lemma foldr1_foldr1_map {A B : UU} (f : B -> B -> B) (b : B) (h : A -> B) (xs : list A) :
-  foldr1_map f b h xs = foldr1 f b (map h xs).
+Definition foldr1_map_ind {A B : UU} (f : B -> B -> B) (b : B) (h : A -> B) (P : list A -> B -> UU)
+  (P0 : P nil b)
+  (P1 : ∏ a, P (cons a nil) (h a))
+  (P2 : ∏ a1 xs a2 b, P (cons a1 xs) b -> P (cons a2 (cons a1 xs)) (f (h a2) b))
+  (xs : list A) : P xs (foldr1_map f b h xs).
```
Comment (benediktahrens) [inline UniMath/Combinatorics/Lists.v:226]: @rmatthes : is there an intuition you could share with others (and possibly future you?) that might help understand this induction principle?

**Review by benediktahrens — APPROVED** [review]
This looks very useful! Could you add a comment helping others to understand and use the induction principle?

File: UniMath/Combinatorics/Lists.v (hunk 1 above)
Comment (rmatthes) [reply UniMath/Combinatorics/Lists.v]: a good point - I have now tried to do this in a comment right before the definition
